US04954499
100 g of 6-(4-amino-3-nitrophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one are dissolved in 2 1 of methanol and hydrogenated over 20 g of 5% palladium-on-charcoal at 20° and 1 bar until absorption ceases. Filtration and evaporation give 6-(3,4-diaminophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one, m.p. 195°-196°.

reactant | 6-(4-amino-3-nitrophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one | 100 g | NC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C11H12N4O3
solvent | methanol | CO | CH4O
catalyst | palladium-on-charcoal | 20 g | [Pd] | Pd
product | 6-(3,4-diaminophenyl)-5-methyl-2,3,4,5-tetrahydropyridazin-3-one | NC=1C=C(C=CC1N)C=1C(CC(NN1)=O)C | C11H14N4O
